US05821246
Using an analogous procedure to that described in Example 1, 6-acetoxy-4-chloroquinazoline was reacted with 4-amino-3-fluorophenyl 2-pyridylmethyl ether to give 6-acetoxy-4-[2-fluoro-4-(2-pyridylmethoxy)anilino]quinazoline in 94% yield.

reactant | 6-acetoxy-4-chloroquinazoline | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)Cl | C10H7ClN2O2
reactant | 4-amino-3-fluorophenyl 2-pyridylmethyl ether | N1=C(C=CC=C1)COC1=CC(=C(C=C1)N)F | C12H11FN2O
product | 6-acetoxy-4-[2-fluoro-4-(2-pyridylmethoxy)anilino]quinazoline | 94% yield | C(C)(=O)OC=1C=C2C(=NC=NC2=CC1)NC1=C(C=C(C=C1)OCC1=NC=CC=C1)F | C22H17FN4O3
